US06514968B1
Preparation 44 2-({9-[(2-methyl-1,3-thiazol-4-yl)methyl]-9H-carbazol-4-yl}oxy)acetonitrile
2-(9H-Carbazol-4-yloxy)acetonitrile (0.143 g, 0.64 mmol)) is added to a slurry of pentane-washed NaH (0.0825 g, 0.0021 mol) in DMF (1 mL) and allowed to stir for 20 min at room temperature. 4-Chloromethyl-2-methylthiazole hydrochloride (0163 g, 0.89 mmol) is added and after stirring for 2 h the mixture is partitioned between ethyl acetate and water. The combined organic layers are dried over magnesium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (75 mL) using ethyl acetate/hexane (20/80 and 40/60) and solids are crystallized from dichloromethane/ether to give 0.162 g (76%) of the title compound; MS (ESI+) for C19H15N3OS m/z 334.2 (M+H)+; IR (drift) 1581, 1459, 1440, 1341, 1333, 1275, 1228, 1215, 1182, 1157, 1151, 1113, 782, 754, 718 cm−1; 1H NMR (CDCl3) δ2.74, 5.09, 5.62, 6.38, 6.78, 7.19, 7.31, 7.44, 8.32. Anal. Calcd for C19H15N3OS: C, 68.45; H, 4.53; N, 12.60. Found: C, 68.27; H, 4.53; N, 12.33.

reactant | 2-(9H-Carbazol-4-yloxy)acetonitrile | 0.64 mmol, 0.143 g | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC#N | C14H10N2O
reactant | pentane | CCCCC | C5H12
reactant | NaH | 0.0021 mol, 0.0825 g | [H-].[Na+]
reactant | 4-Chloromethyl-2-methylthiazole hydrochloride | 0.89 mmol | Cl.ClCC=1N=C(SC1)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-({9-[(2-methyl-1,3-thiazol-4-yl)methyl]-9H-carbazol-4-yl}oxy)acetonitrile | 0.162 g, 76% | CC=1SC=C(N1)CN1C2=CC=CC=C2C=2C(=CC=CC12)OCC#N | C19H15N3OS
